************************************************************************
* auCdl Netlist:
* 
* Library Name:  ic
* Top Cell Name: idc_19
* View Name:     schematic
* Netlisted on:  May 19 14:47:43 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ic
* Cell Name:    idc_19
* View Name:    schematic
************************************************************************

.SUBCKT idc_19 GND IBIAS VDD
*.PININFO GND:B IBIAS:B VDD:B
MM7 VDD net7 VDD VDD p33 W=5u L=10u m=2
MM6 net7 net7 VDD VDD p33 W=5u L=10u m=2
MM5 net52 net7 VDD VDD p33 W=5u L=10u m=2
MM4 net35 GND net13 VDD p33 W=220n L=10u m=1
MM3 net13 GND net17 VDD p33 W=220n L=10u m=1
MM2 net17 GND net21 VDD p33 W=220n L=10u m=1
MM1 net21 GND net31 VDD p33 W=220n L=10u m=1
MM0 net31 GND VDD VDD p33 W=220n L=10u m=1
MM12 net7 net35 GND GND n33 W=5u L=1u m=1
MM11 net35 net52 GND GND n33 W=5u L=1u m=1
MM10 IBIAS net52 GND GND n33 W=5u L=5u m=1
MM9 net7 net52 net45 GND n33 W=5u L=5u m=4
MM8 net52 net52 GND GND n33 W=5u L=5u m=1
RR0 net45 GND 69.7041K $[rhrpo] $W=1u $L=66u M=1
.ENDS

