* SPICE NETLIST
***************************************

.SUBCKT nmvt18_ckt D G S B
.ENDS
***************************************
.SUBCKT nmvt33_ckt D G S B
.ENDS
***************************************
.SUBCKT pmvt18_ckt D G S B
.ENDS
***************************************
.SUBCKT nnt18_ckt D G S B
.ENDS
***************************************
.SUBCKT nnt33_ckt D G S B
.ENDS
***************************************
.SUBCKT n18_ckt D G S B
.ENDS
***************************************
.SUBCKT n18_dnw_ckt D G S B T B2
.ENDS
***************************************
.SUBCKT n18_dnw_4t_ckt D G S B
.ENDS
***************************************
.SUBCKT p18_ckt D G S B
.ENDS
***************************************
.SUBCKT p18_dnw_ckt D G S B B2
.ENDS
***************************************
.SUBCKT p18_dnw_4t_ckt D G S B
.ENDS
***************************************
.SUBCKT n33_ckt D G S B
.ENDS
***************************************
.SUBCKT n33_dnw_ckt D G S B T B2
.ENDS
***************************************
.SUBCKT n33_dnw_4t_ckt D G S B
.ENDS
***************************************
.SUBCKT p33_ckt D G S B
.ENDS
***************************************
.SUBCKT p33_dnw_ckt D G S B B2
.ENDS
***************************************
.SUBCKT p33_dnw_4t_ckt D G S B
.ENDS
***************************************
.SUBCKT pvar18_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT pvar33_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT pnp18a4_mis_ckt C B E
.ENDS
***************************************
.SUBCKT pnp18a25_mis_ckt C B E
.ENDS
***************************************
.SUBCKT pnp18a100_mis_ckt C B E
.ENDS
***************************************
.SUBCKT pnp33a4_mis_ckt C B E
.ENDS
***************************************
.SUBCKT pnp33a25_mis_ckt C B E
.ENDS
***************************************
.SUBCKT pnp33a100_mis_ckt C B E
.ENDS
***************************************
.SUBCKT npn18a4_mis_ckt C B E SUB
.ENDS
***************************************
.SUBCKT npn18a25_mis_ckt C B E SUB
.ENDS
***************************************
.SUBCKT npn18a100_mis_ckt C B E SUB
.ENDS
***************************************
.SUBCKT npn33a4_mis_ckt C B E SUB
.ENDS
***************************************
.SUBCKT npn33a25_mis_ckt C B E SUB
.ENDS
***************************************
.SUBCKT npn33a100_mis_ckt C B E SUB
.ENDS
***************************************
.SUBCKT EFUSE_res PLUS MINUS
.ENDS
***************************************
.SUBCKT rnwaa_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rnwsti_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rpdif_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rndif_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rppo_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT rppo_3t_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rnpo_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT rnpo_3t_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rpdifsab_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rndifsab_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rpposab_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT rpposab_3t_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rnposab_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT rnposab_3t_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT rhrpo_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT rhrpo_3t_ckt PLUS MINUS SUB
.ENDS
***************************************
.SUBCKT mim_ckt PLUS MINUS
.ENDS
***************************************
.SUBCKT inv vdd in out gnd
** N=4 EP=4 IP=0 FDC=3
D0 gnd vdd parasitic_nwdio AREA=3.8064e-12 PJ=7.82e-06 m=1 $X=550 $Y=-3430 $D=70
M1 out in gnd gnd n18 L=1.8e-07 W=2.2e-07 $X=1500 $Y=-5100 $D=3
M2 out in vdd vdd p18 L=1.8e-07 W=2.2e-07 $X=1500 $Y=-2900 $D=7
.ENDS
***************************************
