************************************************************************
* auCdl Netlist:
* 
* Library Name:  ic
* Top Cell Name: ota
* View Name:     schematic
* Netlisted on:  May  7 13:13:42 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: ic
* Cell Name:    ota
* View Name:    schematic
************************************************************************

.SUBCKT ota Ibias gnd in_n in_p out vdd
*.PININFO Ibias:I in_n:I in_p:I out:O gnd:B vdd:B
MM5 Ibias Ibias vdd vdd p33 W=8u L=6u m=1
MM2 out in_n net13 vdd p33 W=2u L=6u m=1
MM1 net11 in_p net13 vdd p33 W=2u L=6u m=1
MM0 net13 Ibias vdd vdd p33 W=8u L=6u m=1
MM4 out net11 gnd gnd n33 W=2u L=6u m=1
MM3 net11 net11 gnd gnd n33 W=2u L=6u m=1
.ENDS

